### PR TITLE
[Merged by Bors] - feat: lemmas about HasLaw

### PR DESCRIPTION
**Pull request by EtienneC30**
- If `X` has law `µ` then `P {ω | p (X ω)} = μ {x | p x}`.
- If there is a random variable `X` with law `μ` such that `f(X)` has law `ν`, then for any random variable `Y` with law `μ`, `f(Y)` has law `ν`.
- Composition of a random variable with a measure-preserving function.

---

- [x] depends on: #37828

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/HasLaw.lean [hunk 1]
```diff
@@ -42,6 +42,29 @@ structure HasLaw (P : Measure Ω := by volume_tac) : Prop where
 
 attribute [fun_prop] HasLaw.aemeasurable
 
+lemma HasLaw.measure_eq (hX : HasLaw X μ P) {p : 𝓧 → Prop} (hp : MeasurableSet {x | p x}) :
+    P {ω | p (X ω)} = μ {x | p x} := by
+  rw [← hX.map_eq, map_apply_of_aemeasurable hX.aemeasurable hp]
+  simp
+
+lemma HasLaw.measure_real_eq (hX : HasLaw X μ P) {p : 𝓧 → Prop} (hp : MeasurableSet {x | p x}) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/HasLaw.lean]:
```suggestion
lemma HasLaw.measureReal_eq (hX : HasLaw X μ P) {p : 𝓧 → Prop} (hp : MeasurableSet {x | p x}) :
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
